data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_493142_0,[C:1]([C:2]([O:6][N:4]([H:11])[H:12])([H:13])[H:14])([O:5][C:3]([H:15])([H:16])[H:17])([O:7][H:9])[O:8][H:10]>>[C:1]([C:2]([O:5][C:3]([H:15])([H:16])[H:17])([H:13])[H:14])([O:6][N:4]([H:11])[H:12])([O:7][H:9])[O:8][H:10],71.86757500000127
MR_90874_0,[N:1]([C:2]([N:5]([H:11])[H:12])=[O:6])([C:3]([N:4]([H:9])[H:10])=[O:7])[H:8]>>[N:1](=[C:2](/[N:5]([H:11])[H:12])[O:6][C:3]([N:4]([H:9])[H:10])=[O:7])\[H:8],53.59289250002007
MR_126611_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([O:7][H:11])[O:8][H:10])([O:5][O:6][H:9])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:14])([H:15])[H:16])[C:3]([O:5][O:6][H:9])([O:7][H:11])[O:8][H:10])([H:12])[H:13],44.662312500024655
MR_7236_0,[C:1]([C:5](/[C:4](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:10])[O:8][H:9])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1=[C:4]([O:8][H:9])[C:6]([C:2]([H:15])([H:16])[H:17])([H:10])[C:7]1([C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14],48.76176999998293
MR_295350_0,[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])([N:7]([C:2]([H:11])([H:12])[H:14])[C:3]([H:13])([H:15])[H:16])/[C:8](=[N:9]/[C:6]([H:23])([H:24])[H:25])[H:10]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])[C:8]([N:7]([C:2]([H:11])([H:12])[H:14])[C:3]([H:13])([H:15])[H:16])([H:10])[N:9]1[C:6]([H:23])([H:24])[H:25],69.83823999998847
MR_23547_1,[C:1]([N:5]([C:2]([H:10])([H:11])[H:15])[C:3]([H:12])([H:13])[H:14])([C:6]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:8])[H:9]>>[C:1](=[C:6]([C:4]([H:16])([H:17])[H:18])[C:7]([N:5]([C:2]([H:10])([H:11])[H:15])[C:3]([H:12])([H:13])[H:14])([H:19])[H:20])([H:8])[H:9],72.87847749994583
MR_508039_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:4]([O:7][H:11])=[N:8]/[O:6][H:10])[O:5][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])([O:7][H:11])[N:8]([O:6][H:10])[H:9])=[O:5],66.75533249999617
MR_451744_2,[C:1](=[C:2]([C:3]([O:6][H:8])([H:11])[H:12])[O:4][O:5][H:7])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[O:4][O:5][H:7])([O:6][H:8])([H:9])[H:10],64.4530350000305
MR_623418_0,[C:1]([N:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:6](/[C:3]([H:19])([H:20])[H:21])[N:7]([H:11])[H:12])[H:10])([C:8](=[O:9])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:4]([H:10])[C@@:5]1([C:2]([H:16])([H:17])[H:18])[C@@:6]([C:3]([H:19])([H:20])[H:21])([N:7]([H:11])[H:12])[C:8](=[O:9])[H:15],39.212474999980174
MR_606745_0,[C:1]([C:2](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:11])([H:13])[H:14])([C:5](=[O:8])[H:12])([O:6][H:9])[H:10]>>[C:1]([C:2]([C:5](=[O:8])[H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:11])([O:6][H:9])[H:10],72.60112249996837
MR_648512_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[C:5]1([O:6][H:11])[N:8]=[N:7][C:4](=[O:9])[O:10]1)([H:12])([H:13])[H:14]>>[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[C:4](/[N:7]=[N:8]\[C:5]([O:6][H:11])=[O:10])=[O:9])([H:12])([H:13])[H:14],39.05559999998388
MR_100162_1,[C:1]1([H:10])([H:11])[N:4]([C:2]([H:14])([H:15])[H:16])[N:3]([N:5]([H:8])[H:9])[C:6]([H:12])=[C:7]1[H:13]>>[C:1]1([H:10])([H:11])[N:4]([C:2]([H:14])([H:15])[H:16])[C:7]1(/[C:6](=[N:3]/[N:5]([H:8])[H:9])[H:12])[H:13],46.33522750000992
MR_290932_0,[C:1]12([C:5](=[C:6]([H:13])[H:14])[H:12])[C:3]([H:10])([C:2]([O:8][H:9])=[C:4]1[H:11])[O:7]2>>[c:1]1([C:5](=[C:6]([H:13])[H:14])[H:12])[c:4]([H:11])[c:2]([O:8][H:9])[c:3]([H:10])[o:7]1,30.409904999982587
MR_440360_1,[C:1]1([C:3]([C:4]([H:14])([H:15])[H:19])([H:12])[H:13])([O:7][H:9])[C:2]([H:10])([H:11])[C:6]1([N:8]=[C:5]([H:17])[H:18])[H:16]>>[C:1]1([C:2](/[C:6](=[N:8]\[C:5]([H:17])([H:18])[H:19])[H:16])([H:10])[H:11])([O:7][H:9])[C:3]([H:12])([H:13])[C:4]1([H:14])[H:15],71.23819250002086
MR_298612_0,[C:1]([C:3]([N:5]([H:10])[H:11])=[O:8])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[O:6][H:9])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:14])([H:15])[H:16])[N:7]([C:3]([N:5]([H:10])[H:11])=[O:8])[O:6][H:9])([H:12])[H:13],63.20493750000708
MR_538978_0,[C:1](/[N:8]=[C:6](\[C:2](=[C:3]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([N:8]1[C:3]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:2]([O:7][H:9])=[C:6]1[H:14])([H:15])([H:16])[H:17],50.83691250002275
MR_375423_0,[C:1]([C:2]([O:7][H:9])=[O:8])([C:6](=[C:3]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:2](=[O:8])[C@@:6]1([C:3]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[O:7][H:9])[H:16],69.36698750000119
MR_557454_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:10]/[C:7]([C:5]([H:19])([H:20])[H:21])=[C:8](\[C:6]([H:22])([H:23])[H:24])[H:12])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[O:9]1>>[C@@:1]1([C:3]([H:13])([H:14])[H:15])([O:10]/[C:7]([C:5]([H:19])([H:20])[H:21])=[C:8](\[C:6]([H:22])([H:23])[H:24])[H:12])[C@:2]([C:4]([H:16])([H:17])[H:18])([H:11])[O:9]1,67.19458249999292
